US06605629B1
A mixture of 2-bromo-3′,4′-dichloroacetophenone (78.0 g), sodium formate (68.0 g) and methanol (300 ml) was stirred with heating under reflux for 16 hours. The reaction mixture was concentrated and poured into water (1 L). The solid precipitates were filtered, washed with water and then isopropyl ether, and air-dried. The residue was dried under reduced pressure to give crystals of 2-hydroxy-3′,4′-dichloroacetophenone (25.0 g, 42%). Recrystallization from ethyl acetate-hexane gave pale yellow prisms. Melting point 115-118° C.

reactant | 2-bromo-3′,4′-dichloroacetophenone | 78.0 g | BrCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | sodium formate | 68.0 g | C(=O)[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-hydroxy-3′,4′-dichloroacetophenone | 25.0 g, 42% | OCC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O2
